US06297239B1
Step B: Preparation of 2-Fluoro-4-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-benzonitrile
2-Fluoro-4-(3-methyl-3H-imidazole-4-carbonyl)-benzonitrile (0.603 g, 2.63 mmol) was dissolved in anhydrous THF (30 mL). A solution of 3.0M MeMgBr in diethyl ether (2.55 mL, 7.65 mmol) was added and stirred for 15 min. The reaction was quenched with NH4Cl solution, diluted with CH2Cl2 and saturated NaHCO3 solution and seperated. The aqueous layer was back extracted with CH2Cl2 (3×), the combined organic layers dried (MgSO4) and concentrated to give the title compound.

reactant | 2-Fluoro-4-(3-methyl-3H-imidazole-4-carbonyl)-benzonitrile | 2.63 mmol, 0.603 g | FC1=C(C#N)C=CC(=C1)C(=O)C=1N(C=NC1)C | C12H8FN3O
reactant | MeMgBr | 3.0M | C[Mg+].[Br-]
reactant | diethyl ether | 7.65 mmol, 2.55 mL | C(C)OCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-benzonitrile | FC1=C(C#N)C=CC(=C1)C(C)(C=1N(C=NC1)C)O | C13H12FN3O
